US07148226B2
Preparation of Compound 1-cyclopentyl-3-[3-fluoro-4-(1-hydroxy-1-methylethyl) phenyl]propan-1-one
To a solution of 2-(4-bromo-2-fluorophenyl)propan-2-ol (5.8 g, 25.0 mmol) in anhydrous NMP (63 mL) was added 1-Cyclopentyl-2-propen-1-ol (3.15 g, 25.0 mmol), NaHCO3 (4.2 g, 50 mmol) and PdCl2(PPh3)2 (350 mg, 2 mol %). The mixture was heated to 140° C. for 4 hours before it was cooled down to room temperature. The reaction was diluted with aqueous NH4Cl, extracted with EtOAc (3×50 mL). The combined organic extracts were washed with brine, dried with Na2SO4 and evaporated to dryness. The mixture was purified by flash column chromatography (10–50% EtOAc in hexanes) to give the product (2.5 g, 36% yield). 1H NMR (300 MHz, CDCl3) δ: 1.56–1.82 (m, 8 H), 1.62 (s, 6 H), 2.74–2.78 (m, 2 H), 2.82–2.89 (m, 2 H), 6.84–6.88 (m, 1 H), 6.93–6.95 (m, 1 H), 7.40–7.44 (m, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)propan-2-ol | 25.0 mmol, 5.8 g | BrC1=CC(=C(C=C1)C(C)(C)O)F | C9H10BrFO
reactant | 1-Cyclopentyl-2-propen-1-ol | 25.0 mmol, 3.15 g | C1(CCCC1)C(C=C)O | C8H14O
reactant | NaHCO3 | 50 mmol, 4.2 g | C(=O)(O)[O-].[Na+]
solvent | NMP | 63 mL | CN1CCCC1=O | C5H9NO
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | PdCl2(PPh3)2 | 350 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-cyclopentyl-3-[3-fluoro-4-(1-hydroxy-1-methylethyl) phenyl]propan-1-one | 2.5 g, 36% yield | C1(CCCC1)C(CCC1=CC(=C(C=C1)C(C)(C)O)F)=O | C17H23FO2
